US05446189
A solution of 41.4 g (0.12 mol) of 3,5-bis(phenylmethoxy)benzoic acid methyl ester and 59 ml (0.36 mol) of 6N NaOH in 700 ml of methanol and 350ml of dioxane was stirred at reflux for 17 hours. The solvents were removedat reduced pressure and the residue was dissolved in water and acidified topH 3 with 6N HCl. The resultant solid was filtered and recrystallized from methylene chloride-methanol to give 38.6 g (97% yield, mp 211°-213°) of 3,5-bis(phenylmethoxy)benzoic acid.

reactant | 3,5-bis(phenylmethoxy)benzoic acid methyl ester | 0.12 mol, 41.4 g | COC(C1=CC(=CC(=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C22H20O4
reactant | NaOH | 0.36 mol, 6N, 59 ml | [OH-].[Na+]
reactant | HCl | 6N | Cl | ClH
solvent | methanol | 700 ml | CO | CH4O
solvent | dioxane | 350ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 3,5-bis(phenylmethoxy)benzoic acid | 38.6 g, 97% yield | C1(=CC=CC=C1)COC=1C=C(C(=O)O)C=C(C1)OCC1=CC=CC=C1 | C21H18O4
